Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with a history of alcohol abuse, 
recently admitted to ___ for alcohol intoxication & withdrawal, 
who presented from a detox center to ___ today with 
fever. He was checking into detox on ___, and was noted to be 
febrile. Therefore, he was transferred to ___. There, he 
had a transaminitis & Hgb 7.7 with guiaic positive rectal, so CT 
torso was performed. This was concerning for diverticulitis, so 
he was transferred to ___ for surgical evaluation. Prior to 
transfer, he received 2L NS, Librium 100mg, 1mg IV Ativan. He 
was started on Vanc, CTX, and Flagyl, & had electrolyte 
repletion with PO K & 2g IV Mg.

He has had no recent subjective fevers, chest pain, shortness of 
breath, or abdominal pain. He had blood in his stool once this 
week, but no black or tarry stools, and no hematemesis. Gets 
nauseated after drinking, no vomiting. Drink of choice is vodka, 
drinks 2 pinks daily ___ years, but trying to quit. Last drink 
was ___ afternoon, not sure what time. 
  
-In ED initial VS:  98.6 106 122/93 20 100% RA 
-Exam:  abdomen soft, NT/ND, refused rectal exam. +Jaundice
- Patient was given:  
___ 01:37 IV MetroNIDAZOLE     
___ 02:53 IV MetroNIDAZOLE 500 mg ___  
___ 03:57 PO ChlordiazePOXIDE 100 mg   
___ 03:57 PO/NG DiphenhydrAMINE 50 mg   
- Imaging notable for:  CT A/P at OSH with sigmoid thickening 
- Consults:  ACS, but patient refused surgery and had no acute 
surgical issue or emergency. Read CT as a chronic diverticulitis 
with no acute changes. Recommended follow up with Dr. ___ 
___ in clinic for discussion of sigmoidectomy. 
- VS prior to transfer:  111 121/56 25 99%  

On arrival to the MICU, he is a little agitated about getting to 
sleep, but otherwise he feels well. 

 
Past Medical History:
- ETOH abuse
- ADHD, not on medications
- prior diverticulitis, not on medications for it
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS:  99.7 120 121/69 20 100% ra, 89.5kg
GENERAL: Sitting in bed, irritated, nontoxic 
HEENT: Sclera icteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachycardic, regular rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly
RECTAL: patient refused  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  no rashes
NEURO:  PERRL, A&Ox3, no asterixis

DISCHARGE PHYSICAL EXAM
 VS 98.6  109/64  82  20  97 Ra 
GENERAL - awake, alert, mildly odd affect, not agitated. walking 
around without acute distress  
HEENT - EOMI, PERRL, posterior oropharynx clear  
NECK - normal ROM, no LAD, no JVD  
CARDIAC - tachycardic, regular rhythm, no murmurs  
LUNGS - CTAB, no wheezing, rhonchi, or rales  
ABDOMEN - soft, nontender, nondistended  
EXTREMITIES - warm, pulses intact in all extremities. No edema  
SKIN - warm, no rashes or petechiae  
NEUROLOGIC - alert and oriented. Denies hallucinations. No 
tremors. No nystagmus. Strength and sensation grossly intact. 
 
Pertinent Results:
ADMISSION LABS:
======================
___ 01:00AM BLOOD WBC-9.5 RBC-1.89* Hgb-6.5* Hct-18.6* 
MCV-98 MCH-34.4* MCHC-34.9 RDW-23.5* RDWSD-75.2* Plt ___
___ 01:00AM BLOOD Neuts-65 Bands-2 ___ Monos-1* Eos-0 
Baso-0 ___ Myelos-1* AbsNeut-6.37* AbsLymp-2.95 
AbsMono-0.10* AbsEos-0.00* AbsBaso-0.00*
___ 01:00AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-1+ Microcy-1+ Polychr-1+
___ 01:00AM BLOOD ___ PTT-25.6 ___
___ 01:00AM BLOOD Glucose-94 UreaN-13 Creat-0.9 Na-130* 
K-3.7 Cl-94* HCO3-24 AnGap-16
___ 01:00AM BLOOD ALT-89* AST-137* LD(LDH)-962* AlkPhos-74 
TotBili-3.8*
___ 01:00AM BLOOD Albumin-3.4* Calcium-8.0* Phos-2.0* 
Mg-2.5
___ 01:02AM BLOOD Lactate-1.5

IMAGING
=======
CT abd.pelvis ___

COMPARISON:  None.
 
FINDINGS: 
 
VASCULAR:
 
There is no abdominal aortic aneurysm.  There is minimal calcium 
burden in the
abdominal aorta and great abdominal arteries.
 
LOWER CHEST: Minimal atelectasis is noted in the lung bases. 
There is no
pleural or pericardial effusion.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. There
is no evidence of focal lesions. There is no evidence of 
intrahepatic or
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits,
without stones or gallbladder wall thickening.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions or pancreatic ductal dilatation. There is no 
peripancreatic
stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.
There is no evidence of stones, focal renal lesions, or 
hydronephrosis. There
are no urothelial lesions in the kidneys or ureters. There is no 
perinephric
abnormality.
 
GASTROINTESTINAL: The stomach appears within normal limits.  
Small bowel loops
are normal in caliber without evidence of small bowel 
obstruction.  The
sigmoid colon again demonstrates wall thickening with 
diverticulosis and
surrounding inflammatory changes.  This is compatible with the 
patient's
diagnosis of diverticulitis.  Again seen is a fistula extending 
between 2
segments of sigmoid colon (series 9, image 133 through 139).  
There is an
extraluminal pocket of air again seen anterior to the sigmoid 
colon (series 9,
image 124).  A probable fistulous tract between the sigmoid 
colon and distal
ileum is again seen (series 9 image 116 through 120).
 
RETROPERITONEUM: There is no retroperitoneal hematoma.  
Prominent lymph nodes
are noted in the retroperitoneum.
 
PELVIS: There is air in the urinary bladder.  There is 
thickening of the
superior bladder wall which extends contiguously with the areas 
of
inflammation related to the patient's sigmoid diverticulitis.  
This is
unchanged from the prior exam.  Prominent lymph nodes are noted 
in the pelvis.
There is no free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION:
1. No evidence of retroperitoneal hematoma or acute bleed in the 
abdomen and
pelvis.
2. Unchanged findings of chronic diverticulitis in the sigmoid 
colon with a
fistula extending between 2 segments of sigmoid colon, a small 
contained
perforation anteriorly, a probable fistula with the distal ileum 
and reactive
changes in the adjacent superior urinary bladder wall.  However, 
given the
presence of air in the urinary bladder, a colovesicular fistula 
cannot be
excluded.  Correlation with history of instrumentation is 
recommended.

CT Torso ___
INDICATION:  ___ year old man with fevers   abdominal pain, 
concern for
diverticulitis// please review CT ABD PELVIS from OSH uploaded 
into OMR- from
ct torso
 
TECHNIQUE:  CT scan of the abdomen with IV and oral contrast 
from ___ was imported into the ___ PACs and reviewed.
 
DOSE:  Found no primary dose record and no dose record stored 
with the sibling
of a split exam.
!If this Fluency report was activated before the completion of 
the dose
transmission, please reinsert the token called CT DLP Dose to 
load new data.
 
COMPARISON:  Total exam DLP: 741.16 mGy-cm
 
FINDINGS: 
 
LOWER CHEST: Minimal subsegmental atelectasis is seen at the 
right lung base. 
There is no pleural or pericardial effusion.
 
ABDOMEN:
HEPATOBILIARY: The liver parenchyma demonstrates homogeneous 
attenuation. 
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic
or extrahepatic biliary dilatation.  The gallbladder is within 
normal limits.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic
stranding.
 
SPLEEN: The spleen is enlarged, measuring 15.9 cm, without focal 
lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. 
There is no evidence of focal renal lesions or hydronephrosis.  
There is no
perinephric abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber, wall thickness, and enhancement throughout.  
Multiple small
diverticula are seen within the sigmoid colon, with marked 
segmental wall
thickening and surrounding inflammatory changes in keeping with 
chronic
diverticulitis.  A 0.9 cm pocket of gas anterior to the proximal 
sigmoid colon
(2:69) appears extraluminal, concerning for a focal contained 
perforation.  A
contrast containing tract is seen connecting the proximal and 
distal sigmoid
(2:73) in keeping with an inter-sigmoid fistula.  There is also 
a linear tract
containing contrast within the superior wall of the proximal 
sigmoid
(___), suspicious for a intramural fistula.  Additionally, 
there is
tethering of a loop of distal ileum to the proximal sigmoid 
___: 64)
concerning for a fistula.
 
There is also contact between the inferior aspect of the sigmoid 
colon and the
superior wall of the bladder, with thickening of the bladder 
wall (___: 78). 
There is no abnormal enhancing tract extending to the bladder 
mucosa and a
colovesicular fistula is unlikely.  However, a small amount of 
gas is seen
within the bladder but this may be related to recent 
instrumentation.  No
abscess or fluid collections are identified.  The appendix is 
normal.
 
PELVIS: There is no free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.
 
LYMPH NODES: There are multiple enlarged ___ lymph nodes 
measuring up to 1.5 x
1.4 cm (2:63).  There is no pelvic or inguinal lymphadenopathy 
by size
criteria.
 
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease
is noted.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
Bilateral spondylolysis of L5 is noted.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
 
IMPRESSION:
1. Chronic diverticulitis involving the proximal sigmoid colon.  
There is a
small pocket of extraluminal gas with surrounding inflammatory 
changes
concerning for a focal contained perforation.  No abscess 
collections are
identified.
2. There is an inter-sigmoid fistula between the proximal and 
distal sigmoid,
an intramural fistula within the proximal sigmoid colon, and a 
suspected
fistula between the proximal sigmoid and the distal ileum.  
Additionally, the
inflamed sigmoid colon is in contact with the roof of the 
bladder with
significant bladder wall thickening.  A colovesicular fistula 
seems unlikely
as no definite one is seen and there is thickened bladder wall 
between the
inflammation and the bladder lumen, however, gas is seen within 
the bladder
but this may be explained by recent instrumentation of the 
bladder.
3. Splenomegaly.
 
RECOMMENDATION(S):  Correlation with a history of recent bladder
instrumentation, such as insertion of a Foley catheter, is 
recommended to rule
out a colovesicular fistula.

RUQUS:
1. Normal appearance of the liver without focal lesion 
identified.
2. No evidence of intra or extrahepatic biliary dilatation.
3. Mild splenomegaly.
4. No ascites.

CROSSMATCH INFORMATION
======================
Mr. ___ is a ___ year old man with a previous diagnosis of 
both a warm and cold auto-antibody.
Work-up at ___ revealed a warm auto-antibody of undetermined
specificity. The cold auto-antibody was not assessed. No 
allo-antibodies
were identified following autologous adsorption. Auto-antibodies 
can
complicate the serological work-up of patients and cause delays 
in
providing compatible blood products. If blood products are 
needed,
please inform the Blood Bank as early as possible.
 
Given the complex serology, to simplify future workups, we will 
provide
ABO compatible, antigen negative units for Mr. ___.
Approximately 4% of ABO compatible blood will be E, c, K and 
Jka-antigen
negative. A blood sample will be sent to ___ every two weeks to 
assess
for new allo-antibody formation.

DISCHARGE:
=========
Hematology
  COMPLETE BLOOD 
COUNTWBCRBCHgbHctMCVMCHMCHCRDWRDWSDPlt Ct
___ 06:44  
12.1*2.62*9.8*29.6*113*37.4*33.128.9*114.8*454*
  RENAL & GLUCOSEGlucoseUreaNCreatNaKClHCO3AnGap
___ 06:42  ___ year old man with history of ETOH abuse and diverticulitis, 
as well as developmental delay, presenting initially for alcohol 
withdrawal, found to be febrile, with severe anemia due to warm 
AIHA, now transferred out of the ICU for further management.  

#Anemia:  Hgb 7.7 on initial presentation, rapidly falling to 
5.5 without evidence of luminal GI bleeding or intraabdominal 
bleeding. He has evidence of hemolysis with high reticulocyte 
count, elevated LDH and indirect bilirubin, low haptoglobin, and 
positive Coombs test. No evidence of cirrhosis/hypersplenism on 
RUQ ultrasound. Normal coags rule out DIC, and smear showed no 
schistocytes to suggest microangiopathy. Hematolology consulted, 
presentation most concern for warm autoimmune hemolytic anemia. 
Patient started on Prednisone for treatment initially at 
90mg/day. C3/C4 nl (though C3 borderline low), RF neg, CRP 
elevated 19.8, HIV negative, Hepatitis serologies negative, B12 
WNL, dsDNA negative, G6PD elevated above assay. Hb has remained 
stable after initiation of prednisone, with subsequent 
downtitration from 90mg qd to 70mg qd on ___. While on high 
dose steroids, patient should remain on Bactrim DS 1 TAB PO TIW, 
calcium/vitamin supplements. He should continue to have once or 
twice weekly CBCs/LDH/Tbili/Hapto per hematology, who will 
follow closely as an outpatient.

#ETOH abuse and withdrawal: Presented ___ to detox, after 
last drink ___. Drinking heavily for ___ years, currently up to 2 
pints of vodka per day. Unable to control symptoms of withdrawal 
with diazepam, so received phenobarbital with rescue dose on 
___. Patient was intermittently agitated for much of his 
admission (less likely from EtOH withdrawal), likely in the 
setting of high dose steroids. He was treated with 500mg IV 
thiamine x3 days (___) with subsequent transition to PO 
thiamine 100mg daily. Phenobarbital taper finished on ___ and 
patient was discharged to home. He was also started on folate 
and a multivitamin. SW was consulted for substance abuse, and 
while we were unable to get him into his detox location of 
choice, he is getting reconnected with his home outpatient 
services. 

# Steroid-induced agitation: Patient demonstrated intermittent 
agitation ISO high dose steroids which was unlikley related to 
withdrawal (as discussed above). He was started on Haldol 0.5 mg 
PO TID and Benadryl 50 mg PO QHS with improved management of his 
agitation. 

# Chronic Diverticulitis: Patient presented with fevers, and has 
a history of diverticulitis. Abdominal CT was notable for 
sigmoid diverticulitis and he was started on IV abx on 
admission. Abd imaging was also notable for possible fistula 
with the distal ileum and reactive changes in the adjacent 
superior urinary bladder wall - given the  presence of air in 
the urinary bladder, a colovesicular fistula could not be fully 
excluded, but he did not have any evidence clinically of urinary 
or fecal complications suggesting a fistula. Patient was 
otherwise without active abdominal pain. General Surgery 
evaluated, and recommended no emergent need for surgery, but 
said he will need outpatient surgery followup for repeat imaging 
and possible elective sigmoidectomy. He will finish a 7 day 
course of Cipro/Flagyl the day after discharge (last day ___. 


# TRANSAMINITIS: AST>>ALT, fitting an alcoholic pattern. INR & 
platelets were normal. RUQUS demonstrated a normal appearing 
liver. Hep serologies were negative. Likely due to EtOH 
hepatitis, DF on admission 2. Remained persistently elevated 
during admission. Discussed importance of abstinence from EtOH. 
Should consider further outpatient hepatology workup. 

TRANSITIONAL ISSUES
=================
-Please check CBC, LDH, Total bilirubin, and haptoglobin once a 
week (next check can be upcoming PCP ___. Please fax results 
to:
fax: ___
Attn: ___, Dr. ___, Dr. ___: ___ (if any issues)
-If patient reports significant fatigue, lightheadedness, or 
chest pain, please have him go to urgent care for CBC check. 
-Patient discharged on Prednisone 70 mg PO QDaily (plan for 
several weeks of high dose steroids, will follow up with 
outpatient hematology who will determine taper) - patient cannot 
skip doses of this medication. 
-Patient discharged on Bactrim DS for PCP prophylaxis, vitamin 
___, and omeprazole while on high dose steroids 
-Patient discharged on PO Cipro/Flagyl to finish 7 day course 
(last day ___
-Patient discharged on Haldol 0.5 mg PO TID and Benadryl 50 mg 
PO QHS for agitation/insomnia while on high dose steroids. 
-Patient has follow up appointments with colorectal and 
hematology
# Communication: HCP: ___ - ___, cell 
___. 
# Code: Full (confirmed)
  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DiphenhydrAMINE 25 mg PO Q6H:PRN anxiety, insomnia 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*2 Tablet Refills:*0 
2.  FoLIC Acid 5 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Haloperidol 0.5 mg PO TID 
RX *haloperidol 0.5 mg 1 tablet(s) by mouth three times a day 
Disp #*60 Tablet Refills:*0 
4.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*3 Tablet Refills:*0 
6.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
7.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
8.  PredniSONE 70 mg PO DAILY 
RX *prednisone 10 mg 7 tablet(s) by mouth daily Disp #*140 
Tablet Refills:*0 
9.  Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth three times a week Disp #*15 Tablet Refills:*0 
10.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
11.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 0.5 (One half) 
tablet(s) by mouth daily Disp #*15 Tablet Refills:*0 
12.  DiphenhydrAMINE 50 mg PO QHS:PRN Insomnia 
RX *diphenhydramine HCl 25 mg 2 tablet(s) by mouth every evening 
Disp #*60 Tablet Refills:*0 
13.Outpatient Lab Work
CBC, LDH, Total bilirubin, and haptoglobin to be checked ___. 

Please fax results to: ___
Attn: ___, Dr. ___, Dr. ___: ___ (if any issues)

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Alcohol Withdrawal
Autoimmune Hemolytic Anemia
Chronic Diverticulitis
Alcoholic Hepatitis

SECONDARY
Alcohol Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with alcohol withdrawal and anemia. You were 
treated with a medication called phenobarbital and your symptoms 
improved. We did test for your anemia which showed you have a 
condition called autoimmune hemolytic anemia (your immune cells 
are attacking and destroying your own red blood cells) and we 
treated you with steroids and your red blood cell levels 
improved. You were also found to have diverticulitis and you 
were treated with antibiotics. Because you were on high dose 
steroids, you were very agitated, we started medications to help 
relieve your agitation. 

You will be discharged to home. Please work with your father and 
visiting nurse service to take your medications as instructed. 
Please follow up with your health care providers with the below 
appointments.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___